US05602254
To a 1-liter flask was charged 100 g (0.27 mol) 7-(3-amino-1-pyrrolidinyl)-8-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid monohydrochloride followed by 200 mL methanol and 200 mL demineralized water. The mixture was stirred and heated to 60° C. where it was maintained until solution was achieved. To a separate 1-liter flask was added 0.5 g Ca(OH)2 and 200 mL demineralized water and the mixture stirred and heated to 60° C. To this mixture was simultaneously added the solution containing the 7-(3-amino-1-pyrrolidinyl)-8-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3carboxylic acid monohydrochloride in aqueous methanol while at the same time charging 5% w/w NaOH at such a rate to maintain the pH between 7.5 and 8.0. When the addition was complete, the mixture was stirred and cooled to 25° C. over 1 hour and filtered on a 4 inch Buchner funnel (filtration time: 38 seconds) and the solid washed with 200 mL demineralized water to give a wet cake. The cake was vacuum dried to give 7-(3-amino-1-pyrrolidinyl)-8-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid as a white solid (90 g).

reactant | 7-(3-amino-1-pyrrolidinyl)-8-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid monohydrochloride | 0.27 mol, 100 g | Cl.NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1CC1)C(=O)O)=O)F
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | 7-(3-amino-1-pyrrolidinyl)-8-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 90 g | NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1Cl)C1CC1)C(=O)O)=O)F | C17H17ClFN3O3
